US09447084B2
3-[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-4,5-dihydro-1,2-oxazole
Into a 100-mL round-bottom flask, was placed 1-chloro-3-(trifluoromethyl)-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (680 mg, 2.48 mmol, 1.00 equiv), a solution of N-[[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]methylidene]hydroxylamine (700 mg, 2.48 mmol, 1.10 equiv) in dichloromethane (20 mL), NaClO (10 mL). The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 3×20 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 3×20 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:30-1:10). This resulted in 600 mg (50%) of 3-[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-4,5-dihydro-1,2-oxazole as yellow oil.

reactant | 1-chloro-3-(trifluoromethyl)-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 2.48 mmol, 680 mg, 1.00 equiv | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)C(F)(F)F | C10H5ClF6
reactant | N-[[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]methylidene]hydroxylamine | 2.48 mmol, 700 mg, 1.10 equiv | BrC1=C(C=C(C=C1)C=NO)CC(F)(F)F | C9H7BrF3NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | NaClO | 10 mL | [O-]Cl.[Na+]
product | 3-[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-4,5-dihydro-1,2-oxazole | BrC1=C(C=C(C=C1)C1=NOC(C1)C1=CC(=CC(=C1)C(F)(F)F)Cl)CC(F)(F)F | C18H11BrClF6NO
